US07541372B2
2-(2-Methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (200 mg, 0.92 mmol) was converted using 2-methoxybenzoic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate=95:5 to 50:50, 170 mg, 55%) which was obtained as a white foam. MS: m/e=334.0 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 0.92 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 2-methoxybenzoic acid | COC1=C(C(=O)O)C=CC=C1 | C8H8O3
product | 2-(2-Methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 170 mg, 55% | COC1=C(C=CC=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C19H15N3O3
